US04996372
Sixty parts by weight of acetone was added to 100 parts by weight of the oily phase containing the oxidation product obtained in Example 8, (1) to prepare an MIBK/acetone mixed oily phase which was subjected to acid cleavage by the following method to obtain 2,6-dihydroxynaphthalene.

reactant | acetone | CC(=O)C | C3H6O
reactant | MIBK acetone | CC(C)CC(=O)C.CC(=O)C
product | 2,6-dihydroxynaphthalene | OC1=CC2=CC=C(C=C2C=C1)O | C10H8O2
